US06369075B1
7-[(4′-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-3-carboxylic acid 3-methyl-benzylamide
7-[(4′-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-3-carboxylic acid (50 mg, 0.11 mmol) was combined with 3-methylbenzylamine (14 mg, 0.11 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (26 mg, 0.14 mmol), 1-hydroxybenzotriazole (17 mg, 0.13 mmol), and triethylamine (0.064 ml, 0.46 mmol) in 1 ml of dichloromethane. After stirring overnight at ambient temperature, the reaction mixture was diluted with 30 ml of ethyl acetate, and the organic phase washed sequentially with water, and brine, and then dried over anhydrous magnesium sulfate, filtered and concentrated under vacuum to afford 52 mg of the title compound as a colorless solid.

reactant | 7-[(4′-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-3-carboxylic acid | 0.11 mmol, 50 mg | FC(C1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C2C=C(C=NC2=C1)C(=O)O)(F)F | C24H15F3N2O3
reactant | 3-methylbenzylamine | 0.11 mmol, 14 mg | CC=1C=C(CN)C=CC1 | C8H11N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.14 mmol, 26 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.13 mmol, 17 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 0.46 mmol, 0.064 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 7-[(4′-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-3-carboxylic acid 3-methyl-benzylamide | 52 mg | CC=1C=C(CNC(=O)C=2C=NC3=CC(=CC=C3C2)NC(=O)C=2C(=CC=CC2)C2=CC=C(C=C2)C(F)(F)F)C=CC1 | C32H24F3N3O2
